US04622342
Potassium acetate (3.0 g) then glacial acetic acid (5 ml) and then sodium iodide (1.0 g) were added to a solution of 2-chloro-1-(3,5-difluoro-4-methoxyphenyl) propan-1-one (6.5 g) in acetone (50 ml). The mixture was stirred and heated under reflux for 4 hours, cooled and treated with water (150 ml) the acetone was evaporated and the aqueous residue was extracted into dichloromethane. The organic phase was washed with sodium bicarbonate solution, dried (magnesium sulphate), and concentrated under reduced pressure, the residual oil was dissolved in ethanol (150 ml) cooled in ice and treated with excess sodium borohydride (1.5 g). The solution was stirred for 2 hours at ambient temperature, the ethanol and the residue partitioned between dilute hydrochloric acid and ethyl acetate. The ethyl acetate layer was dried (magnesium sulphate) and evaporated to give 1-(3,5-difluoro-4-methoxy-phenyl)propane 1,2-diol as an oil which was used in the next stage without further purification.

reactant | Potassium acetate | 3.0 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | sodium iodide | 1.0 g | [I-].[Na+]
reactant | 2-chloro-1-(3,5-difluoro-4-methoxyphenyl) propan-1-one | 6.5 g | ClC(C(=O)C1=CC(=C(C(=C1)F)OC)F)C | C10H9ClF2O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | 1-(3,5-difluoro-4-methoxy-phenyl)propane 1,2-diol | FC=1C=C(C=C(C1OC)F)C(C(C)O)O | C10H12F2O3
